US06750232B2
2-Amino-6-(2-furyl)nicotinonitrile
A suspension of 2-[[3-cyano-6-(2-furyl)-2-pyridyl]oxy]acetamide (8.0 g, 32.9 mmol) and potassium carbonate (9.1 g, 65.9 mmol) in N,N-dimethylformamide (80 ml) was stirred at 120° C. for 1.5 hours. After cooling as it was, the reaction solution was diluted with water and ethyl acetate, and the insoluble matters were filtered off. The aqueous layer in the filtrate was extracted with ethyl acetate. The combined organic layer was washed with an aqueous saturated solution of ammonium chloride (×2), dried over anhydrous sodium sulfate, and concentrated. The residue was suspended in methanol, and the resulting solid was collected by filtration and washed with methanol, to give the title compound (3.81 g, 63%) as a brown solid.

reactant | 2-[[3-cyano-6-(2-furyl)-2-pyridyl]oxy]acetamide | 32.9 mmol, 8.0 g | C(#N)C=1C(=NC(=CC1)C=1OC=CC1)OCC(=O)N | C12H9N3O3
reactant | potassium carbonate | 65.9 mmol, 9.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-(2-furyl)nicotinonitrile | 3.81 g, 63% | NC1=C(C#N)C=CC(=N1)C=1OC=CC1 | C10H7N3O
